US07547691B2
A stirred mixture of 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (406 mg, 1.12 mmol), (2-aminoethyl)-methylcarbamic acid tert-butyl ester (486 mg, 2.79 mmol) and diisopropylethylamine (432 mg, 3.34 mmol) in 1,4-dioxane (4 mL) is heated at 95° C. under nitrogen for 18 hours. At room temperature the mixture is concentrated and the crude product is chromatographed on silica gel, eluting with EtOAc in dichloromethane 0-35%, to give {2-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-ethyl}-methylcarbamic acid tert-butyl ester as a foam (418 mg, 75% yield). The intermediate is then subjected to deprotection by dissolving this material (415 mg, 0.827 mmol) in MeOH (12 mL) and bubbling anhydrous HCl gas for 5 minutes. The hot, yellow solution is allowed to sit at room temperature for 2 hours, then concentrated to give the title compound as a yellow solid (352 mg, 90% yield). ES+(m/z) 402 (35Cl) and 404 (37Cl) [M(free base)+H].

reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 1.12 mmol, 406 mg | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | (2-aminoethyl)-methylcarbamic acid tert-butyl ester | 2.79 mmol, 486 mg | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | diisopropylethylamine | 3.34 mmol, 432 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | {2-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-ethyl}-methylcarbamic acid tert-butyl ester | 418 mg, 75% yield | C(C)(C)(C)OC(N(C)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)Cl)=O | C24H28ClN5O3S
